US04665218
160 g (1.0 mol) of hydroxymethylenemalonic acid dimethyl ester is dissolved in 288 g (9.0 mol) of methanol and 50 g of hydrogen chloride gas is introduced. Then 55.2 g (1.35 mol) of acetonitrile is added and the mixture is let stand for 24 hours at room temperature. Then the low-boiling substances are distilled out, dichloromethane is added to the residue, and ammonium chloride is filtered out. The filtrate is treated with 1.6 g of potassium bisulfate and heated while distilling the volatile components up to 130° C. 138 g (0.79 mol) of methoxymethylenmalonic acid dimethyl ester is obtained, corresponding to 79.3% of the theory.

reactant | hydroxymethylenemalonic acid dimethyl ester | 1.0 mol, 160 g | COC(C(C(=O)OC)=CO)=O | C6H8O5
reactant | methanol | 9.0 mol, 288 g | CO | CH4O
reactant | hydrogen chloride | 50 g | Cl | ClH
reactant | acetonitrile | 1.35 mol, 55.2 g | C(C)#N | C2H3N
product | methoxymethylenmalonic acid dimethyl ester | 0.79 mol, 138 g | COC(C(C(=O)OC)=COC)=O | C7H10O5
